Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.20998072331
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],4.57647821459
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9].[H:10],3.80350413766
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.642148940809999
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],5.01804071099
[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97272751542
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-3.87059576559
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.83260313662
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7][O:8][H:9]>>[C:3]([C:4][O:5][H:6])#[C:7][O:8][H:9].[H:1][C:2],3.96179089392
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:2]#[C:3][O:4],1.52701216972
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[C:9]([H:10])([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],0.99017308268
[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.93158004444
[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2],6.5325857574300015
[C:4]#[C:5][C:6][C:7]([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])[H:9],0.0393372662806999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.85236828232
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.17588457697
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:14][H:15],1.72597938042
[C:2](#[C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])([H:8])[H:9],-3.67625048155
[C:5]([H:6])[O:7][C:8][H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8][H:9],-5.2797912175
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.1789681056
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.982913329179
[H:8].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-3.5439038908
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.77169296303
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])[H:11].[O:1]=[O:2],1.46217606762
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7].[C:8][H:9]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-4.90505706609
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],1.3594342109900002
[C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15].[O:1]>>[O:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-3.97964665449
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.546516758209
